US07196104B2
Preparation CL: 2-Bromo-thiazole-4-carboxylic acid ethyl ester
To a stirred mixture of 2-amino-thiazole-4-carboxylic acid ethyl ester hydrobromide (10 g, 58 mmol), CuSO4 (26.9 g, 168 mmol) and NaBr (22.7 g, 221 mmol) in 9M H4SO4 (aq) (120 mL) at −5° C.−0° C., a pre-cooled solution of NaNO2 (4.4 g, 64 mmol) in H2O (40 mL) was added at such a rate to maintain the temperature at or below 0° C. After complete addition the mixture was maintained at 0° C. for another 30 min then warmed to RT over 2.5 h. The reaction mixture was diluted with H2O (120 mL) and extracted with Et2O (3×100 mL). The aqueous layer was separated, basified to pH 12 with 5N NaOH (aq), then extracted with Et2O (2×100 mL). The organic layers were combined, dried over Na2SO4, filtered and the solvent evaporated in vacuo. The residue was purified by flash chromatography on silica gel (1:9, EtOAc:hexane) to yield the title compound as a white amorphous solid. MS m/z: 235.8, 237.8 (M+H). Calc'd. for C6H6BrNO2S-234.93.

reactant | 2-amino-thiazole-4-carboxylic acid ethyl ester hydrobromide | 58 mmol, 10 g | Br.C(C)OC(=O)C=1N=C(SC1)N
reactant | NaBr | 221 mmol, 22.7 g | [Na+].[Br-]
reactant | NaNO2 | 64 mmol, 4.4 g | N(=O)[O-].[Na+]
solvent | H2O | 40 mL | O | H2O
solvent | H2O | 120 mL | O | H2O
catalyst | CuSO4 | 168 mmol, 26.9 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2-Bromo-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)Br | C6H6BrNO2S
